US05405989
544 Milligrams of 7-phenylheptanoyl chloride was added by drops to a mixture of 135 mg of propargyl alcohol, 191 mg of pyridine and 20 ml of dry toluene with stirring and ice-cooling. After dropwise addition, the resultant solution was stirred for additional 12 hours at room temperature. The thus stirred solution was poured into a dilute hydrochloric acid cooled with ice. The toluene layer was separated from the resulting mixture. The aqueous layer was extracted once with toluene. These toluene layers were combined, washed with water and then with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off from the dried layer under reduced pressure. The resulting residue was subjected to chromatography on silica gel to obtain 482 mg of propargyl 7-phenylheptanoate.

reactant | 7-phenylheptanoyl chloride | C1(=CC=CC=C1)CCCCCCC(=O)Cl | C13H17ClO
reactant | propargyl alcohol | 135 mg | C(C#C)O | C3H4O
reactant | pyridine | 191 mg | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | propargyl 7-phenylheptanoate | 482 mg, Yield: 81% | C1(=CC=CC=C1)CCCCCCC(=O)OCC#C | C16H20O2
